US06828317B2
N-(3-{3-Fluoro-4-(6-(4-hydroxyphenyl)-5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl]-phenyl}-2-oxo-oxazolidin-5(S)-ylmethyl)-acetamide
25% Sodium methoxide solution in methanol (0.027 ml, 0.117 mmol) is added to methanesulfonic acid 4-(2-{4-[5-(acetylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluorophenyl}-5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-6-yl)-phenyl ester (0.050 g, 0.0932 mmol) in methanol (2 ml) and the mixture is stirred at room temperature overnight. The reaction mixture is neutralized with acetic acid (0.020 ml), evaporated to dryness and the residue is purified by PTLC (10% MeOH/DCM) to give product as a white solid (0.039 g, 92%); 1H NMR (300 MHz, DMSO-d6) δ 1.80 (s, 3H), 3.40-3.45 (bs, 2H), 3.74 (dd, J=6.9, 10.5 Hz, 1H), 4.12 (t, J=9.3 Hz, 1H), 4.70-4.79 (m, 1H), 4.98 (s, 3H), 6.73 (d, J=8.4 Hz, 2H), 7.08 (d, J=8.7 Hz, 1H), 7.37 (dd, J=1.8, 8.7 Hz, 1H), 7.55-7.60 (m, 2H), 8.25 (t, J=5.7 Hz, 1H); mp >200 (decomp.); MS (m/z): [M+H]+=459.

reactant | Sodium methoxide | C[O-].[Na+]
reactant | methanesulfonic acid 4-(2-{4-[5-(acetylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluorophenyl}-5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-6-yl)-phenyl ester | 0.0932 mmol, 0.050 g | C(C)(=O)NCC1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SC(C(NN1)=O)C1=CC=C(C=C1)OS(=O)(=O)C)F | C22H21FN4O7S2
reactant | acetic acid | 0.020 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 0.117 mmol, 0.027 ml | CO | CH4O
product | N-(3-{3-Fluoro-4-(6-(4-hydroxyphenyl)-5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl]-phenyl}-2-oxo-oxazolidin-5(S)-ylmethyl)-acetamide | 0.039 g, 92% | FC=1C=C(C=CC1C=1SC(C(NN1)=O)C1=CC=C(C=C1)O)N1C(O[C@H](C1)CNC(C)=O)=O | C21H19FN4O5S
